US05332732
A mixture of 1-[2-(methylethoxy)phenyl]piperazine (6.30 g, 0.029 mol), prepared as described by Martin and Scott, et al., J. Med. Chem., 1989, 32, 1052-1056, 4-bromo-2-thiophenecarboxaldehyde (5.50 g, 0.029 mol), NaBH(OAc)3 (8.00 g, 0.038 mol), acetic acid (1.70 g, 0.029 mol), and dichloroethane was stirred for several hours at room temperature. The reaction was then partitioned between diethyl ether/aqueous 10% Na2CO3 and the ether layer was separated, washed with saturated NaCl solution, dried over anhydrous K2CO3, filtered, and evaporated to give 1-[(4-bromo-2-thienyl) methyl]-4-[2-(1-methylethoxy)phenyl]piperazine (11.33 g) as a crude oil. Treatment of this material with HCl diethyl ether-isopropanol gave a crystalline solid which was recrystallized from methanol to give 1-[(4-bromo-2-thienyl)methyl]-4-[2-(1-methylethoxy) phenyl]piperazine monohydrochloride (10 g, 77%). A 2.0 g sample of this was recrystallized twice from methanol, and chromatographed on flash silica (99:1/CHCl3 :MeOH with 1% NH4OH as eluant). The resulting oil was converted to the hydrochloride salt, as described previously, and was recrystallized from methanol , and dried to give 1-[(4-bromo-2-thienyl) methyl]-4-[2-(1-methylethoxy) phenyl]piperazine monohydrochloride, m.p. (darkens 240° C.) 243°-249.5° C. 1H NMR and CI MS support the structure.

reactant | 1-[2-(methylethoxy)phenyl]piperazine | 0.029 mol, 6.30 g | CC(C)OC1=C(C=CC=C1)N1CCNCC1 | C13H20N2O
reactant | 4-bromo-2-thiophenecarboxaldehyde | 0.029 mol, 5.50 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | NaBH(OAc)3 | 0.038 mol, 8.00 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 0.029 mol, 1.70 g | C(C)(=O)O | C2H4O2
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 1-[(4-bromo-2-thienyl) methyl]-4-[2-(1-methylethoxy)phenyl]piperazine | 11.33 g | BrC=1C=C(SC1)CN1CCN(CC1)C1=C(C=CC=C1)OC(C)C | C18H23BrN2OS
